US07989633B2
3-Amino-1-(4-fluorophenyl)but-2-en-1-one
3-Methyl-5-(4-fluorophenyl)isoxazole (620 mg, 3.49 mmol) is introduced into 16 ml of ethanol, platinum(IV) oxide catalyst (62 mg) is added, and the mixture is then hydrogenated under atmospheric pressure hydrogen for 12 h. The catalyst is filtered off and the filtrate is concentrated. 573 mg (91% of theory) of the title compound are obtained as a white solid.

reactant | 3-Methyl-5-(4-fluorophenyl)isoxazole | 3.49 mmol, 620 mg | CC1=NOC(=C1)C1=CC=C(C=C1)F | C10H8FNO
reactant | hydrogen | [H][H] | H2
catalyst | platinum(IV) oxide | 62 mg | [Pt](=O)=O
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 3-Amino-1-(4-fluorophenyl)but-2-en-1-one | NC(=CC(=O)C1=CC=C(C=C1)F)C | C10H10FNO
